US04209512
A mixture of 2.97 g of 3-hydroxy-5-methylisoxazole, 1.32 g of paraldehyde, 3 ml of thionyl chloride and 20 ml of benzene was stirred for 1 hour at 40°-50° C. On evaporating off the solvent and excess thionyl chloride, there were obtained 4.97 g of crude, crystalline 2-(1-chloroethyl)-5-methyl-4-isoxazolin-3-one.

reactant | 3-hydroxy-5-methylisoxazole | 2.97 g | OC1=NOC(=C1)C | C4H5NO2
reactant | paraldehyde | 1.32 g | CC1OC(OC(O1)C)C | C6H12O3
reactant | thionyl chloride | 3 ml | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | 2-(1-chloroethyl)-5-methyl-4-isoxazolin-3-one | ClC(C)N1OC(=CC1=O)C | C6H8ClNO2
